US08957068B2
To a oven dried round bottom flask with stir bar was added 2-fluoro-4-(trifluoromethyl)benzaldehyde (5 g, 26.0 mmol), (R)-2-methylpropane-2-sulfinamide (3.47 g, 28.6 mmol) and DCE (52 mL). To this mixture was then added copper (II) sulfate (6.23 g, 39.0 mmol). The reaction mixture was heated in a preheated oil bath at 55° C. for 18 hours. The reaction mixture was filtered through a pad celite, washing the solids with DCE. The filtrate was concentrated to afford a viscous green oil of (R,E)-N-(2-fluoro-4-(trifluoromethyl)benzylidene)-2-methyl propane-2-sulfinamide (7.3 g, 24.7 mmol, 95% yield). Material was taken onto next step without further purification. 1H NMR (400 MHz, CDCl3) δ ppm 1.29 (s, 9H) 7.44 (d, J=10.08 Hz, 1H) 7.51 (d, J=8.27 Hz, 1H) 8.13 (t, J=7.46 Hz, 1H) 8.92 (s, 1H). LCMS m/z 296.0 (M+H)+, Rt 1.02 min.

reactant | 2-fluoro-4-(trifluoromethyl)benzaldehyde | 26.0 mmol, 5 g | FC1=C(C=O)C=CC(=C1)C(F)(F)F | C8H4F4O
reactant | (R)-2-methylpropane-2-sulfinamide | 28.6 mmol, 3.47 g | CC(C)(C)[S@@](=O)N | C4H11NOS
catalyst | copper (II) sulfate | 39.0 mmol, 6.23 g | S(=O)(=O)([O-])[O-].[Cu+2]
solvent | DCE | 52 mL | ClCCCl | C2H4Cl2
product | (R,E)-N-(2-fluoro-4-(trifluoromethyl)benzylidene)-2-methyl propane-2-sulfinamide | 24.7 mmol, 7.3 g, 95% yield | FC1=C(\C=N\[S@](=O)C(C)(C)C)C=CC(=C1)C(F)(F)F | C12H13F4NOS
